and08479_Individual
*SPICE Netlist generated by Advanced Sim server on 1/31/2022 7:23:27 PM
.options MixedSimGenerated

*Schematic Netlist:
CC1 NetC1_1 NetC1_2 10u
CC2 Vdd 0 1u
CC3 Vdd 0 1nf
CC4 Vref 0 1u
CC5 Vref 0 1nf
CC6 Vset 0 1u
CC7 Vset 0 1nf
CC8 Vin 0 1u
CC9 Vin 0 1nf
RR1 NetR1_1 Vdd 6k
RR2 0 NetR1_1 2k
RR3 NetR3_1 Vdd 10k
RR4 0 NetR3_1 2k
RR5 NetR5_1 Vdd 5k
RR6 0 NetR5_1 5k
RR7 Vref NetC1_1 10k
XU1 NetR1_1 Vset Vdd 0 Vset AD645A
XU2 NetR3_1 Vref Vdd 0 Vref AD645A
XU3 NetR5_1 Vin Vdd 0 Vin AD645A
XU4 Vset NetC1_1 Vdd 0 NetC1_2 AD645A
XU5 Vin NetC1_2 Vdd 0 NetU5_6 AD645A
VV? Vdd 0 12 AC 1 0

.PROBE {V(NetU5_6)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(NetC1_2)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.TRAN 1m 3 0 1m UIC

*Models and Subcircuits:
* AD645A SPICE Macro-model                  4/92, Rev. B
*                                           JCB / PMI
*
* Revision History:
*     Rev. B:  Converted model to include noise analysis.
*
* This version of the AD645 model simulates the worst case
* parameters of the 'A' grade.  The worst case parameters
* used correspond to those in the data sheet.
*
* Copyright 1990 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License
*+ Statement.
*
* Node assignments
*                non-inverting input
*                |   inverting input
*                |   |   positive supply
*                |   |   |   negative supply
*                |   |   |   |   output
*                |   |   |   |   |
.SUBCKT AD645A   1   2   99  50  30
*
* INPUT STAGE & POLE AT 40 MHZ
*
R3   5  50    1.049
R4   6  50    1.049
CIN  1   2    1E-12
C2   5   6    1.90E-9
I1   99  4    100E-3
IOS  1   2    0.5E-12
EOS  65  1    POLY(1)  17 24  500E-6  1
J1   5   2    4   JX
J2   6   7    4   JX
EN   7  65    43  0  1
GN1  0   1    47  0  1E-6
GN2  0   2    61  0  1E-6
GB1  2  50    POLY(3) 4,2 5,2 50,2 0 1E-12 1E-12 1E-12
GB2  7  50    POLY(3) 4,7 6,7 50,7 0 1E-12 1E-12 1E-12
*
EREF 98  0    24  0   1
*
* VOLTAGE NOISE GENERATOR
*
VN1  41  0    DC 2
RS1  41 42    11.8E3
RS2  42 43    1.2E9
CS1  42 43    79.8E-11
RS3  43 44    1.2E9
CS2  43 44    79.8E-11
RS4  44 45    11.8E3
VN2  0  45    DC 2
*
* CURRENT NOISE GENERATOR
*
VN3  46  0    DC 2
RN5  46 47    144
RN6  47 48    144
VN4  0  48    DC 2
*
* CURRENT NOISE GENERATOR
*
VN5  60  0    DC 2
RN7  60 61    144
RN8  61 62    144
VN6  0  62    DC 2
*
* SECOND STAGE & POLE AT 3 HZ
*
R5   9  98    5.26E5
C3   9  98    1.00E-7
G1   98  9    5  6  9.53E-1
V2   99  8    4.7
V3   10 50    4.7
D1   9   8    DX
D2   10  9    DX
*
* NEGATIVE ZERO AT 15 MHZ
*
R6   11 12     1E6
C4   11 12     -10.6E-15
R7   12 98     1
E2   11 98     9  24  1E6
*
* POLE AT 40 MHZ
*
R8   13 98     1E3
C5   13 98     3.98E-12
G2   98 13     12 24  1E-3
*
* POLE AT 40 MHZ
*
R9   14 98     1E3
C6   14 98     3.98E-12
G3   98 14     13 24  1E-3
*
* POLE AT 40 MHZ
*
R10  15 98     1E3
C7   15 98     3.98E-12
G4   98 15     14 24  1E-3
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 600 HZ
*
R11  16 17     1E6
C8   16 17     2.65E-10
R12  17 98     1
E3   16 98     POLY(2) 1  98  2  98  0  15.8  15.8
*
* POLE AT 40 MHZ
*
R13  18 98     1E3
C9   18 98     3.98E-12
G5   98 18     15 24  1E-3
*
* OUTPUT STAGE
*
R14  24 99     2000E3
R15  24 50     2000E3
ISY  99 50     -96.5E-3
R16  29 99     360
R17  29 50     360
L1   29 30     1E-8
G6   27 50     18 29  2.78E-3
G7   28 50     29 18  2.78E-3
G8   29 99     99 18  2.78E-3
G9   50 29     18 50  2.78E-3
V4   25 29     2.0
V5   29 26     2.0
D3   18 25     DX
D4   26 18     DX
D5   99 27     DX
D6   99 28     DX
D7   50 27     DY
D8   50 28     DY
F1   29  0     V4  1
F2   0  29     V5  1
*
* MODELS USED
*
.MODEL JX PJF(BETA=4.54  VTO=-2.000  IS=2.5E-12 RD=0.1
+ RS=0.1 CGD=1E-15 CGS=1E-15)
.MODEL DX   D(IS=1E-15 RS=10 CJO=1E-15)
.MODEL DY   D(IS=1E-15 BV=50 RS=10 CJO=1E-15)
.MODEL DEN  D(IS=1E-12 RS=7409.6 KF=2.051E-15 AF=1)
.MODEL DIN  D(IS=1E-12 RS=41.5 KF=0 AF=1)
.ENDS AD645A

.END